US05268386
Ethyl 2-{(5-hydroxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-6-yl) oxy}propionate
A mixture of 5,7-dihydroxyspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one (prepared in Preparation 19) (0.248 g, 1.0 mmol), ethyl 2-bromopropionate (0.199 g, 1.1 mmol), anhydrous potassium carbonate (0.207 g, 1.5 mmol), and acetonitrile (3 ml) is stirred at room temperature for 22 hours, and the reaction mixture is concentrated. To the residue is added saturated brine and the mixture is extracted with dichloromethane. The organic layer is separated, dried, and concentrated. Purification by a silica gel column chromatography (eluent: dichloromethane) gives the title compound as an oil (0.284 g, yield 81.6%).

reactant | 5,7-dihydroxyspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one | 1.0 mmol, 0.248 g | OC1=CC(=CC2=C1C(CC1(CCCCC1)O2)=O)O | C14H16O4
reactant | ethyl 2-bromopropionate | 1.1 mmol, 0.199 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 1.5 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | Ethyl 2-{(5-hydroxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-6-yl) oxy}propionate | 0.284 g, yield 81.6% | OC1=C(C=CC2=C1C(CC1(CCCCC1)O2)=O)OC(C(=O)OCC)C | C19H24O6
